US07348456B2
Step E: 2-Azido-3-(3-bromophenyl)-4-(4-chlorophenyl)-3-methylbutane
To a solution of 3-(3-bromophenyl)-4-(4-chlorophenyl)-3-methyl-2-butanol (fasting eluting diastereomer, 0.90 g, 2.5 mmol) in ethyl acetate (80 mL) at 0° C. was added triethyl amine (dried over activated molecular sieves, 0.42 mL. 3.1 mmol) and methanesulfonyl chloride (0.22 mL, 2.8 mmol). After stirring at 0° C. for 2 h, the reaction was quenched by addition of saturated aqueous sodium bicarbonate (10 mL). After stirring at room temperature for 0.5 h, the organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated to dryness to give the crude sulfonate, which was used without further purification. Thus, a mixture of the sulfonate and sodium azide (0.83 g, 0.13 mol) in dimethylformamide (5 mL) was heated at 120° C. for 4 h. The reaction mixture was cooled to room temperature and was poured into water (40 mL), and the product was extracted with ether (2×20 mL). The combined organic extracts were washed with water, dried over magnesium sulfate, filtered and concentrated to dryness, and the residue was purified on a silica gel column eluting with hexane to give the title compound (Diastereomer α). 1H NMR (400 MHz, CD3OD): δ 7.43-7.20 (m, 4H), 7.04 (d, 2H), 6.64 (d, 2H), 4.10 (q, 1H), 3.10 (d, 1H), 3.00 (d, 1H), 1.10 (s, 3H), 1.02 (d, 3H).

reactant | 3-(3-bromophenyl)-4-(4-chlorophenyl)-3-methyl-2-butanol | 2.5 mmol, 0.90 g | BrC=1C=C(C=CC1)C(C(C)O)(CC1=CC=C(C=C1)Cl)C | C17H18BrClO
reactant | triethyl amine | 3.1 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.8 mmol, 0.22 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 0.13 mol, 0.83 g | [N-]=[N+]=[N-].[Na+]
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
product | 2-Azido-3-(3-bromophenyl)-4-(4-chlorophenyl)-3-methylbutane | N(=[N+]=[N-])C(C)C(CC1=CC=C(C=C1)Cl)(C)C1=CC(=CC=C1)Br | C17H17BrClN3
